### ISSUE TITLE
Runtime exponential in number of copies of unused variables

### ISSUE THREAD

**Issue by sven-manthe** [leanprover/lean4#5108]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When adding copies of a propositional parameter, which depends on a large proof term of a specific form, to a theorem, the running time of ``exact sorry`` seemingly increases exponentially.

### Context

See https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Performance.20issue

### Steps to Reproduce

```
def help (A : Type) : ([] : List A).length % 1 = 0 → Prop := fun _ ↦ True
set_option profiler true

--the running time of "exact sorry" seems exponential in the number of h1
theorem slow {A : Type} (p : Bool)
  (h : ∀ (hp : ([] : List A).length % 1 = 0), help A hp → help A hp)
  (h1 : help A (by cases p <;> omega))
  (h1 : help A (by cases p <;> omega))
  (h1 : help A (by cases p <;> omega))
  (h1 : help A (by cases p <;> omega))
  (h1 : help A (by cases p <;> omega))
  -- (h1 : help A (by cases p <;> omega))
  -- (h1 : help A (by cases p <;> omega))
  (hp : ([] : List A).length % 1 = 0) : help A hp := by
  refine h (by cases p <;> omega) ?_
  exact sorry
--the issue disappers after removing some of the "cases p",
--or replacing "omega" by "simp"
--or replacing A by ℕ
--or replacing "exact sorry" by "exact trivial"
```
A variant crashing the VS Code infoview is
```
def help (A : Type) : ([] : List A).length % 1 = 0 → Prop := fun _ ↦ True
set_option profiler true
set_option diagnostics true

example (A : Type) (p : Bool) : ([] : List A).length % 1 = 0 := by
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  -- let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  -- let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  -- let h1 : ([] : List A).length % 1 = 0 := by cases p <;> omega
  omega
--also, replacing let by have fixes the issue
```

**Expected behavior:** The running time is linear or at least polynomial in the number of copies of h1.

**Actual behavior:** The running time seems exponential in the number of copies of h1.

### Versions

4.11.0-rc2

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Quick analysis: each `omega` seems to introduce a rewrite (`Eq.ndrec`) with (at least) the previous hypothesis, which in the rewrite's motive embeds the hypothesis' full type including its own omega proof term, which has a rewrite of... etc. pp. As this is done twice due to the `cases`, the full proof term size is exponential, choking `CheckAssignmentQuick.check`.

I don't know if it is realistic to hope that `omega` could avoid this rewrite (/cc @semorrison). In general, it is certainly best to avoid filling in proof *arguments* of functions like `help` with expensive (big proof-producing) tactics like `omega`.

**Comment by nomeata** [comment]
Can let-binding the large proof terms in a suitable place help to avoid the duplication?

**Comment by sven-manthe** [comment]
> Can let-binding the large proof terms in a suitable place help to avoid the duplication?

If I understand you correctly, I was thinking of something similar: There is a discussion in https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/count_heartbeats.20CPU.20usage

**Comment by semorrison** [comment]
`omega` is a red herring here, we see the same exponential behaviour with just:

```
#time
example (A : Type) (p : Bool) : ([] : List A).length % 1 = 0 := by
  iterate 20 let h1 : ([] : List A).length % 1 = 0 := by cases p <;> sorry
  sorry
```

(For k = 10, 20, 30, 40, this takes 0.1s, 2.5s, 21s, 180s, so it is indeed exponential: every three iterations doubles the time.)

**Comment by kim-em** [comment]
(Still same behaviour as of v4.28.0-rc1)

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. With 5 / 7 / 9 copies of `h1`: 0.31 / 0.35 / 0.46s on nightly and 0.65 / 0.70 / 0.78s on 4.33.1 — linear, not exponential.

Suggest closing.

Triage assisted by Claude; repros run and checked manually.
